US07579351B2
5-Benzyloxy-1-((S)-2-tert-butoxycarbonylamino-1-methyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester
The title compound was synthesized in analogy to example 8, intermediate a), from ethyl 5-benzyloxyindole-2-carboxylate (commercially available), (R)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (prepared according to WO02/010169) and potassium tert-butoxide, to give the desired compound as a yellow solid (100%).

reactant | ethyl 5-benzyloxyindole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
reactant | (R)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@@H](C1)C)(=O)=O | C8H15NO5S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
product | 5-Benzyloxy-1-((S)-2-tert-butoxycarbonylamino-1-methyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester | 100% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)[C@H](CNC(=O)OC(C)(C)C)C | C26H32N2O5
